US09422293B2
[2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine
2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol. To solution of 5-oxo-1-(3-trifluoromethyl-pyridin-2-yl)-azepane-4-carboxylic acid ethyl ester (3.0 g, 9.09 mmol) in EtOH (40 mL) was added NaOEt (1.97 g, 29.1 mmol) and thiourea (1.1 g, 13.6 mmol). The mixture was heated at reflux for 12 h. The mixture was cooled, treated with MeI (0.74 mL, 11.8 mmol) drop-wise, and stirred at rt for 1 h. The mixture was concentrated and the residue was dissolved in water and acidified to pH=7 with HOAc (a precipitate formed). The solid was filtered to give the title compound (3.3 g, >99%), which was used in the next step without further purification.

reactant | 2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol | CSC=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)O | C15H15F3N4OS
reactant | 5-oxo-1-(3-trifluoromethyl-pyridin-2-yl)-azepane-4-carboxylic acid ethyl ester | 9.09 mmol, 3.0 g | C(C)OC(=O)C1CCN(CCC1=O)C1=NC=CC=C1C(F)(F)F | C15H17F3N2O3
reactant | NaOEt | 29.1 mmol, 1.97 g | CC[O-].[Na+]
reactant | thiourea | 13.6 mmol, 1.1 g | NC(=S)N | CH4N2S
reactant | MeI | 11.8 mmol, 0.74 mL | CI | CH3I
solvent | EtOH | 40 mL | CCO | C2H6O
product | [2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine | 3.3 g, >99% | CSC=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)NC1=CC=C(C=C1)C(F)(F)F | C22H19F6N5S
